US07531532B2
4-Amino-6-(2-fluoro-4-nitrophenoxy)pyrimidine (50 mg) was dissolved in tetrahydrofuran (3 ml) under a nitrogen atmosphere, and then triethylamine (0.056 ml) and phenyl chloroformate (0.050 ml) were added dropwise thereto, followed by stirring at room temperature for 30 min. The reaction mixture was concentrated under a reduced pressure to give a residue, which was then dissolved in N,N-dimethylformamide (3 ml). 4-(Pyrrolidin-1-yl)piperidine (123 mg) was added thereto, followed by stirring at room temperature for 2 hrs. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=1:5). The solvent was evaporated under a reduced pressure, and dried in vacuum to provide a crude product of 4-(pyrrolidin-1-yl)piperidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide. The crude product (86 mg) was dissolved in tetrahydrofuran (2 ml)-methanol (2 ml), and then 10% palladium carbon (43 mg) was added thereto under a nitrogen atmosphere, followed by replacing with hydrogen inside the system and stirring overnight. After replacing with nitrogen inside the system, the reaction mixture was filtered to remove the catalyst, which was washed with methanol. The filtrate was concentrated under a reduced pressure to give a residue, which was purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=1:5, then ethyl acetate). Fractions containing the target compound were concentrated under a reduced pressure to provide the titled compound (53.5 mg, 66.8%).

reactant | 4-Amino-6-(2-fluoro-4-nitrophenoxy)pyrimidine | 50 mg | NC1=NC=NC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C10H7FN4O3
reactant | triethylamine | 0.056 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.050 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-(Pyrrolidin-1-yl)piperidine | 123 mg | N1(CCCC1)C1CCNCC1 | C9H18N2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-(pyrrolidin-1-yl)piperidine-1-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCC(CC2)N2CCCC2)C=CC(=C1)[N+](=O)[O-] | C20H23FN6O4
